US05741811
Synthesis of 5,3"-dihydroxymethyl 2,2':5 ',2"-terthiophene (NSC code #658875)
To a solution of 5-formyl-3"-hydroxymethyl-2,2 ':5',2"-terthiophene (60 mg) in tetrahydrofuran (5 ml) was added sodium borohydride (15 mg). The reaction mixture was stirred at room temperature for 40 minutes. Methanol was removed and water was added. The solution was extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and concentrated to give yellowish solid product (60 mg), melting point 93°-95° C.

reactant | 5-formyl-3"-hydroxymethyl-2,2 ':5',2"-terthiophene | 60 mg | C(=O)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1CO | C14H10O2S3
reactant | sodium borohydride | 15 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5,3"-dihydroxymethyl 2,2':5 ',2"-terthiophene | 60 mg | OCC1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1CO | C14H12O2S3
